US08835423B2
Product (Example 41): [4-(3,8-dihydroimidazo[4,5-d]dipyrido[2,3-b:4′,3′-f]azepin-2-yl)cyclohexyl]acetonitrile
A solution of [4-(3-hydroxy-3,8-dihydroimidazo[4,5-d]dipyrido[2,3-b:4′,3′-f]azepin-2-yl)cyclohexyl]acetonitrile (7.0 g, 0.019 mol) and triisopropyl phosphite (20 mL, 0.08 mol) in N,N-dimethylacetamide (20 mL) was heated at 160° C. for 2 hours and was then concentrated in vacuo. The residue was purified by column chromatography on silica gel (5% trimethylamine 7.5% methanol and 87.5% ethyl acetate) yielding 4.10 g of product as a 9:1 mixture of the two diastereomers. The pure cis and trans isomers could be obtained by preparative HPLC. 1H NMR (300, DMSO-d6): δ 12.73 and 12.01 (br s, 1H), 7.83-7.99 (m, 4H), 7.70 and 7.46 (m, 1H), 6.77 (m, 1H), 2.54-2.63 (m, 1H), 2.49 (m, 2H), 1.84-2.02 (m, 4H), 1.50-1.79 (m, 3H), 1.09-1.24 (m,2H).

reactant | [4-(3-hydroxy-3,8-dihydroimidazo[4,5-d]dipyrido[2,3-b:4′,3′-f]azepin-2-yl)cyclohexyl]acetonitrile | 0.019 mol, 7.0 g | ON1C(=NC=2C3=C(NC4=C(C21)C=CN=C4)N=CC=C3)C3CCC(CC3)CC#N | C21H20N6O
reactant | triisopropyl phosphite | 0.08 mol, 20 mL | P(OC(C)C)(OC(C)C)OC(C)C | C9H21O3P
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
product | [4-(3,8-dihydroimidazo[4,5-d]dipyrido[2,3-b:4′,3′-f]azepin-2-yl)cyclohexyl]acetonitrile | 4.10 g | N1=C(NC2=C1C1=C(NC3=C2C=CN=C3)N=CC=C1)C1CCC(CC1)CC#N | C21H20N6
